US05019587
2,3-Dihydro-3,3-dimethyl-N-(4-methoxyphenyl)-2-oxo-(1H)-indole-5-carboxamid
2.3 g. (10 mmole) 2,3-dihydro-3,3-dimethyl-2-oxo-(1H)-indole-5-carboxylic acid, 1 drop of dimethylformamide and 15 ml. thionyl chloride were heated to the boil under reflux for 30 minutes. The thionyl chloride was removed under a vacuum and the crude product was used without further purification. The crude product was dissolved in 20 ml. dichloromethane and added dropwise to a solution of 2.5 g. (20 mmol) p-anisidine in 50 ml. dichloromethane while cooling with ice. After 15 minutes, 50 ml. water were added thereto, the organic phase was separated off and the solvent removed under vacuum. The residue was purified by column chromatography (400 ml. silica gel 60, dichloromethane/methanol 20:1 v/v). The pure fractions were evaporated under vacuum, the residue was digested with diethyl ether, filtered off with suction and dried in a vacuum at 100° C. There was obtained 1.9 g. (61% of theory) of the title compound; m.p. 169-171° C.

reactant | 2,3-dihydro-3,3-dimethyl-2-oxo-(1H)-indole-5-carboxylic acid | 10 mmole | CC1(C(NC2=CC=C(C=C12)C(=O)O)=O)C | C11H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | p-anisidine | 20 mmol | COC1=CC=C(C=C1)N | C7H9NO
reactant | dichloromethane | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3-Dihydro-3,3-dimethyl-N-(4-methoxyphenyl)-2-oxo-(1H)-indole-5-carboxamid | CC1(C(NC2=CC=C(C=C12)C(=O)NC1=CC=C(C=C1)OC)=O)C | C18H18N2O3
